US07145047B2
7.3 g of 4-propylphenylboric acid and 11 g of 1,3-difluoro-2-trifluoromethoxynaphthalene-6-yl trifluoromethanesulfonate (obtained by triflating 1,3-difluoro-2-trifluoromethoxynaphthalene-6-ol with trifluoromethanesulfonic anhydride) were dissolved in 50 ml of DMF. To the solution was then added 0.4 g of tetrakis(triphenylphosphine)palladium (0). The reaction mixture was stirred at a temperature of 85° C. for 8 hours. To the reaction solution were then added water and toluene. The resulting aqueous phase was then extracted with toluene. The material thus extracted and the organic phase were together washed with water and then with saturated brine, and then dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure to obtain an oily matter. The oily matter thus obtained was purified through silica gel column chromatography (hexane/ethyl acetate=9/1), and then recrystallized from ethanol to obtain 6.3 g of 1,3-difluoro-2-trifluoromethoxy-6-(4-propylphenyl)naphthalene in crystal form.

reactant | 4-propylphenylboric acid | 7.3 g | C(CC)C1=CC=C(C=C1)OB(O)O | C9H13BO3
reactant | 1,3-difluoro-2-trifluoromethoxynaphthalene-6-yl trifluoromethanesulfonate | 11 g | FC(S(=O)(=O)OC=1C=C2C=C(C(=C(C2=CC1)F)OC(F)(F)F)F)(F)F | C12H4F8O4S
reactant | water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,3-difluoro-2-trifluoromethoxy-6-(4-propylphenyl)naphthalene | 6.3 g | FC1=C(C(=CC2=CC(=CC=C12)C1=CC=C(C=C1)CCC)F)OC(F)(F)F | C20H15F5O
